US04019892
4.6 g (0.0325 mole) of boron trifluoride etherate was added to a solution containing 4.6 g (0.025 mole) of (4-chloro-2-methylphenoxy)acetaldehyde and 2.5 g (0.028 mole) of N-methylglycolamide in 40 ml of tetrahydrofuran. After 24 hours at ambient temperature, the reaction mixture was concentrated under reduced pressure, extracted with ether, washed with water and dried. Purification by silica chromatography gave 0.7 g of 2-(4-chloro-2-methylphenoxymethyl)-3-methyl-4-oxazolidinone as a light yellow oil.

reactant | boron trifluoride etherate | 0.0325 mole, 4.6 g | B(F)(F)F.CCOCC
reactant | (4-chloro-2-methylphenoxy)acetaldehyde | 0.025 mole, 4.6 g | ClC1=CC(=C(OCC=O)C=C1)C | C9H9ClO2
reactant | N-methylglycolamide | 0.028 mole, 2.5 g | CNC(CO)=O | C3H7NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(4-chloro-2-methylphenoxymethyl)-3-methyl-4-oxazolidinone | 0.7 g | ClC1=CC(=C(OCC2OCC(N2C)=O)C=C1)C | C12H14ClNO3
